US04059602
Mercuric acetate (3.8 g., 0.012 mole) is dissolved in water (12ml.) and tetrahydrofuran (20 ml.) is added to give a suspension of a yellow solid. Then, 8-acetyl-8-phenyl-12-methyl-11-heptadecenoic acid (4.8 g., 0.012 mole) in tetrahydrofuran (20 ml.) is added, and the mixture stirred at room temperature for 24 hours. After 6 hours, the yellow suspended solid has disappeared and a cloudy solution results. To the solution is added 3M sodium hydroxide solution (12 ml.), followed by 0.5M sodium borohydride solution in 3M solution hydroxide (12 ml.). Liquids are decanted from the precipitated mercury. The organic layer is taken up in ether, washed with three portions of water and dried over sodium sulfate. Evaporation of the ether leaves 8-acetyl-8-phenyl-12-hydroxy-12-methyl-heptadecanoic acid as a yellow viscous oil which is purified by chromatrography on silica gel with 4% methanol in chloroform as eluant.

reactant | 8-acetyl-8-phenyl-12-methyl-11-heptadecenoic acid | 0.012 mole, 4.8 g | C(C)(=O)C(CCCCCCC(=O)O)(CCC=C(CCCCC)C)C1=CC=CC=C1 | C26H40O3
reactant | sodium hydroxide | 3M, 12 ml | [OH-].[Na+]
reactant | sodium borohydride | 0.5M | [BH4-].[Na+]
reactant | hydroxide | 12 ml | [OH-]
solvent | water | 12ml | O | H2O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 8-acetyl-8-phenyl-12-hydroxy-12-methyl-heptadecanoic acid | C(C)(=O)C(CCCCCCC(=O)O)(CCCC(CCCCC)(C)O)C1=CC=CC=C1 | C26H42O4
